US05142081
n-butoxy-triethylsilane
0.1 moles of n-butanol, 0.15 moles of triethylchlorosilane and 0.0005 moles of triethylbenzyl ammonium chloride in 50 ml of p-xylene were heated under reflux (80°-110° C.). When the evolution of HCl had ceased, the product was worked up by fractional distillation at reduced pressure.

reactant | n-butanol | 0.1 moles | C(CCC)O | C4H10O
reactant | triethylchlorosilane | 0.15 moles | C(C)[Si](Cl)(CC)CC | C6H15ClSi
reactant | HCl | Cl | ClH
catalyst | triethylbenzyl ammonium chloride | 0.0005 moles | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
solvent | p-xylene | 50 ml | CC=1C=CC(=CC1)C | C8H10
product | n-butoxy-triethylsilane | C(CCC)O[Si](CC)(CC)CC | C10H24OSi
